US09216988B2
To a solution of (4-bromophenyl)methanamine (2.5 g, 13 mmol) in dichloromethane (45 mL) was added N,N-diisopropylethylamine (3.5 mL, 20 mmol), followed by phenylmethanesulfonyl chloride (3.1 g, 16 mmol) and the reaction was stirred at ambient temperature for 1 hour. The precipitate was then collected by filtration, washed with dichloromethane and dried under reduced pressure to give N-[(4-bromophenyl)methyl]-1-phenyl-methanesulfonamide (2.79 g, 61% yield). LCMS (m/z) ES+ 340.0 [M+1]+.

reactant | (4-bromophenyl)methanamine | 13 mmol, 2.5 g | BrC1=CC=C(C=C1)CN | C7H8BrN
reactant | N,N-diisopropylethylamine | 20 mmol, 3.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenylmethanesulfonyl chloride | 16 mmol, 3.1 g | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | N-[(4-bromophenyl)methyl]-1-phenyl-methanesulfonamide | 2.79 g, 61% yield | BrC1=CC=C(C=C1)CNS(=O)(=O)CC1=CC=CC=C1 | C14H14BrNO2S
